//
.param nfin=14 rres=2k lastt=60n fin_n_diff2sing=4 fin_p_diff2sing=6 \
    width_n_diff2sing=10 width_p_diff2sing=16 fin_n_vco_type_2=4 \
    fin_p_vco_type_2=6 fnnn=24 fppp=4 VDD=0.8 VBIAS=0.7 wpppn=1 wnnn=1

// Library name: CAD_modules
// Cell name: diff2sing_v1
// View name: schematic
.global VSS
.global VSS
.subckt diff2sing_v1 B VDD VSS in1 in2 o
.param _ar0=1 _ar1=1 _ar2=1 _ar3=1
    MP2 net3 B net1 VDD sky130_fd_pr__pfet_01v8 m=1 L=1.4000e-08 nfin=_ar0 nf=_ar1
    MP5 net1 B VDD VDD sky130_fd_pr__pfet_01v8 m=1 L=1.4000e-08 nfin=_ar0 nf=_ar1
    MP1 o in2 net2 VDD sky130_fd_pr__pfet_01v8 m=1 L=1.4000e-08 nfin=_ar0 nf=_ar1
    MP4 net2 in2 net3 VDD sky130_fd_pr__pfet_01v8 m=1 L=1.4000e-08 nfin=_ar0 nf=_ar1
    MP0 net8 in1 net4 VDD sky130_fd_pr__pfet_01v8 m=1 L=1.4000e-08 nfin=_ar0 nf=_ar1
    MP3 net4 in1 net3 VDD sky130_fd_pr__pfet_01v8 m=1 L=1.4000e-08 nfin=_ar0 nf=_ar1
    MN1 net8 net8 net5 VSS sky130_fd_pr__nfet_01v8 m=1 L=1.4000e-08 nfin=_ar2 nf=_ar3
    MN3 net5 net8 VSS VSS sky130_fd_pr__nfet_01v8 m=1 L=1.4000e-08 nfin=_ar2 nf=_ar3
    MN0 o net8 net6 VSS sky130_fd_pr__nfet_01v8 m=1 L=1.4000e-08 nfin=_ar2 nf=_ar3
    MN2 net6 net8 VSS VSS sky130_fd_pr__nfet_01v8 m=1 L=1.4000e-08 nfin=_ar2 nf=_ar3
.ends diff2sing_v1

.subckt three_terminal_inv VDD VSS VBIAS VIN VOUT
.param _ar0=1 _ar1=1 _ar2=1 _ar3=1 _ar4=1 _ar5=0
    MN34 VOUT VIN net1 VSS sky130_fd_pr__nfet_01v8 m=1 L=1.4000e-08 nfin=_ar0 nf=_ar2
    MN33 net1 VIN VSS VSS sky130_fd_pr__nfet_01v8 m=1 L=1.4000e-08 nfin=_ar0 nf=_ar2
    MP34 VOUT VBIAS net2 VDD sky130_fd_pr__pfet_01v8 m=1 L=1.4000e-08 nfin=_ar3 nf=_ar4
    MP33 net2 VBIAS VDD VDD sky130_fd_pr__pfet_01v8 m=1 L=1.4000e-08 nfin=_ar3 nf=_ar4
.ends three_terminal_inv
// End of subcircuit definition.

// Library name: CAD_modules
// Cell name: VCO_type2_12
// View name: schematic
.subckt VCO_type2_65 VDD VSS o<1> o<2> o<3> o<4> o<5> o<6> \
        o<7> o<8> op<1> VBIAS
.param _ar0=1 _ar1=1 _ar2=1 _ar3=1 _ar4=1 _ar5=0
    xI1<1> VDD VSS VBIAS o<1> o<2> three_terminal_inv _ar0=_ar0 \
        _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
    xI1<2> VDD VSS VBIAS o<2> o<3> three_terminal_inv _ar0=_ar0 \
        _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
    xI1<3> VDD VSS VBIAS o<3> o<4> three_terminal_inv _ar0=_ar0 \
        _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
    xI1<4> VDD VSS VBIAS o<4> o<5> three_terminal_inv _ar0=_ar0 \
        _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
    xI1<5> VDD VSS VBIAS o<5> o<6> three_terminal_inv _ar0=_ar0 \
        _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
    xI1<6> VDD VSS VBIAS o<6> o<7> three_terminal_inv _ar0=_ar0 \
        _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
    xI1<7> VDD VSS VBIAS o<7> o<8> three_terminal_inv _ar0=_ar0 \
        _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
    xI1<8> VDD VSS VBIAS o<8> op<1> three_terminal_inv _ar0=_ar0 \
        _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
.ends VCO_type2_65
// End of subcircuit definition.


// Main body of circuit:
.subckt vco_dtype_12_hierarchical VDD VSS vbias oo<1> oo<2> oo<3> oo<4> oo<5> oo<6> oo<7> \
oo<8> on<1> on<2> on<3> on<4> on<5> on<6> on<7> on<8> op<1> op<2> op<3> op<4> op<5> \
op<6> op<7> op<8>

xI6<1> VSS VDD VSS on<1> op<1> oo<1> diff2sing_v1 \
        _ar0=fin_p_diff2sing _ar1=width_p_diff2sing \
        _ar2=fin_n_diff2sing _ar3=width_n_diff2sing
xI6<2> VSS VDD VSS on<2> op<2> oo<2> diff2sing_v1 \
        _ar0=fin_p_diff2sing _ar1=width_p_diff2sing \
        _ar2=fin_n_diff2sing _ar3=width_n_diff2sing
xI6<3> VSS VDD VSS on<3> op<3> oo<3> diff2sing_v1 \
        _ar0=fin_p_diff2sing _ar1=width_p_diff2sing \
        _ar2=fin_n_diff2sing _ar3=width_n_diff2sing
xI6<4> VSS VDD VSS on<4> op<4> oo<4> diff2sing_v1 \
        _ar0=fin_p_diff2sing _ar1=width_p_diff2sing \
        _ar2=fin_n_diff2sing _ar3=width_n_diff2sing
xI6<5> VSS VDD VSS on<5> op<5> oo<5> diff2sing_v1 \
        _ar0=fin_p_diff2sing _ar1=width_p_diff2sing \
        _ar2=fin_n_diff2sing _ar3=width_n_diff2sing
xI6<6> VSS VDD VSS on<6> op<6> oo<6> diff2sing_v1 \
        _ar0=fin_p_diff2sing _ar1=width_p_diff2sing \
        _ar2=fin_n_diff2sing _ar3=width_n_diff2sing
xI6<7> VSS VDD VSS on<7> op<7> oo<7> diff2sing_v1 \
        _ar0=fin_p_diff2sing _ar1=width_p_diff2sing \
        _ar2=fin_n_diff2sing _ar3=width_n_diff2sing
xI6<8> VSS VDD VSS on<8> op<8> oo<8> diff2sing_v1 \
        _ar0=fin_p_diff2sing _ar1=width_p_diff2sing \
        _ar2=fin_n_diff2sing _ar3=width_n_diff2sing

xI1 VDD VSS op<1> op<2> op<3> op<4> op<5> op<6> op<7> \
        op<8> on<1> vbias VCO_type2_65 _ar0=fin_n_vco_type_2 \
        _ar1=wnnn _ar2=fnnn _ar3=fin_p_vco_type_2 _ar4=fppp \
        _ar5=wpppn

xI0 VDD VSS on<1> on<2> on<3> on<4> on<5> on<6> on<7> \
        on<8> op<1> vbias VCO_type2_65 _ar0=fin_n_vco_type_2 \
        _ar1=wnnn _ar2=fnnn _ar3=fin_p_vco_type_2 _ar4=fppp \
        _ar5=wpppn
.ends vco_dtype_12_hierarchical

